US08030340B2
2-Amino-1-[6-methoxypyridin-3-yl]propan-1-ol
1-(6-methoxypyridin-3-yl)-2-nitro-propan-1-ol (2.20 g, 10.37 mmol) was dissolved in methanol (410 mL) and hydrogenated using a H-Cube™ hydrogenation reactor (THALES nanotechnology) equipped with a cartridge of 10% Pd/C. The flow rate was set to 0.8 mL/min, temperature 80° C. and full the hydrogen production at full mode. After evaporation of the solution diastereomers can be separated on preparative HPLC (XTerrra C18, 19×50 mm) using a gradient of 5-30% acetonitrile in water (+1% NH3) gave the pure subtitle compound (448 mg, 24%).

reactant | 1-(6-methoxypyridin-3-yl)-2-nitro-propan-1-ol | 10.37 mmol, 2.20 g | COC1=CC=C(C=N1)C(C(C)[N+](=O)[O-])O | C9H12N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 410 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-Amino-1-[6-methoxypyridin-3-yl]propan-1-ol | 448 mg, 24% | NC(C(O)C=1C=NC(=CC1)OC)C | C9H14N2O2
